plaintext
* SPICE Netlist for the given circuit
* Voltage Source
VDD 2 0 DC 1.8
* Transistors
* M1 is an NMOS: Drain is connected to Node 3, Gate is Node 'Vin', Source is Ground
M1 3 Vin 0 NMOS
* M2 is a PMOS: Drain is connected to Node 3, Gate is Node 2, Source is Node 2
? Missing component
* Input Voltage 
Vin Vin 0 DC 0
* Models for NMOS and PMOS
.model NMOS NMOS
.model PMOS PMOS
.end
